US08975443B2
Ethyl 2′,4′,6′-triisopropylbiphenyl-2-ylphosphinate
A 1-L 3-neck round-bottom flask was fitted with an addition funnel and the atmosphere was purged with nitrogen. Anhydrous, degassed THF (170 mL) was added to the 1-L flask and cooled to −60° C. (internal temperature). The addition funnel was charged with hexyllithium (2.38 M in hexanes, 57 mL, 135 mmol, 2.0 equiv). The hexyllithium was transferred into the cold THF over 20 min, maintaining the temperature below −40° C. The solution was re-cooled to −60° C. (internal temperature). A solution of 2′-iodo-2,4,6-triisopropylbiphenyl (27.5 g, 67.7 mmol, 1.0 equiv) in 170 mL of anhydrous, degassed THF was transferred, via cannula, drop wise to the n-hexyllithium solution. This was done over 25 min while maintaining the temperature below −40° C. After addition, the reaction mixture was allowed to stir at −60° C. for 30 min. Diethyl chlorophosphite (19.62 mL, 135 mmol, 2.0 equiv) was added to the reaction mixture, over 10 min while maintaining the temperature below −40° C. After addition of diethyl chlorophosphite, the reaction was allowed to proceed at −60° C. for an additional 30 min. Aqueous hydrochloric acid (1 M, 338 mL, 338 mmol) was added at −60° C. The flask was removed from the cold bath and the reaction was allowed to warm to 22° C. The resultant solution was diluted with heptane (340 mL) and transferred to a separatory funnel. The layers were separated and the organic layer was assayed for product by quantitative HPLC (94% yield). The organic layer was concentrated under reduced pressure to give an oil which was used in the next reaction without further purification.

reactant | hexyllithium | 135 mmol, 2.38 M, 57 mL, 2.0 equiv | C(CCCCC)[Li]
reactant | 2′-iodo-2,4,6-triisopropylbiphenyl | 67.7 mmol, 27.5 g, 1.0 equiv | IC1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C21H27I
reactant | Diethyl chlorophosphite | 135 mmol, 19.62 mL, 2.0 equiv | P(OCC)(OCC)Cl | C4H10ClO2P
reactant | hydrochloric acid | 338 mmol, 1 M, 338 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 2′,4′,6′-triisopropylbiphenyl-2-ylphosphinate | 94% yield | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)C1=C(C=CC=C1)P(OCC)=O | C23H33O2P
